US04582834
3.5 g of 5-(4-methoxyphenyl)-4-methyl-2-(1H)-pyrimidinone are dissolved in methanol, the solution is acidified with ethereal hydrochloric acid (pH 2-3), and ether is added to incipient opalescence. The solution is cooled and the crystals are filtered off with suction. After drying, 3.3 g of 5-(4-methoxyphenyl)-4-methyl-2-(1H)-pyrimidinone hydrochloride are obtained. Melting point 265° C. (decomposition).

reactant | 5-(4-methoxyphenyl)-4-methyl-2-(1H)-pyrimidinone | 3.5 g | COC1=CC=C(C=C1)C=1C(=NC(NC1)=O)C | C12H12N2O2
reactant | hydrochloric acid | pH 2-3 | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | methanol | CO | CH4O
product | 5-(4-methoxyphenyl)-4-methyl-2-(1H)-pyrimidinone hydrochloride | 3.3 g | Cl.COC1=CC=C(C=C1)C=1C(=NC(NC1)=O)C | InChI=1S/C12H12N2O2.ClH/c1-8-11(7-13-12(15)14-8)9-3-5-10(16-2)6-4-9;/h3-7H,1-2H3,(H,13,14,15);1H
